US07713994B2
2-Aminomethyl-5-methoxy-pyridin-4-ol
A mixture of 2-azidomethyl-5-methoxy-pyridin-4-ol (1.45 g, 8.05 mole), is then suspended in 20 mL of tetrahydrofuran and treated with triphenylphosphine (2.11 g, 8.05 mmole) after stirring for 10 mins at ambient temperature water is added (1.76 mL, 15 equivalents) and the reaction mixture is stirred at ambient temperature overnight. The solids gradually dissolved followed by the formation of a precipitate. The resulting solid is filtered, washed with fresh 10:1 tetrahydrofuran:water and dried to give, 0.897 g, (88%), mp 196-201° C. dec; MS (ES+): m/z 155.3 (M+H).

reactant | 2-azidomethyl-5-methoxy-pyridin-4-ol | 8.05 mole, 1.45 g | N(=[N+]=[N-])CC1=NC=C(C(=C1)O)OC | C7H8N4O2
reactant | triphenylphosphine | 8.05 mmole, 2.11 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-Aminomethyl-5-methoxy-pyridin-4-ol | NCC1=NC=C(C(=C1)O)OC | C7H10N2O2
